US09216999B2
4-{[4-(2,4-Dioxo-7-{[2-(trimethylsilyl)ethoxy]methyl}-2,3,4,7-tetrahydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-1-yl)piperidin-1-yl]methyl}benzonitrile
1-(Piperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidine-2,4(3H,7H)-dione hydrochloride (50 mg, 0.111 mmol) and 4-cyanobenzaldehyde (29 mg, 0.22 mmol) in a mixture of methanol (2 ml) and acetic acid (0.2 mL) were stirred with 2-picoline borane (50 mg, 0.47 mmol) at room temperature for 2 days. After addition of 1 M aqueous sodium hydroxide, the reaction mixture was extracted with a mixture of ethyl acetate and 2-propanol, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=10/1 (v/v)) to give the title compound as a colorless solid (23.4 mg, yield 40%).

reactant | 1-(Piperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidine-2,4(3H,7H)-dione hydrochloride | 0.111 mmol, 50 mg | Cl.N1CCC(CC1)N1C(NC(C2=C1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O)=O
reactant | 4-cyanobenzaldehyde | 0.22 mmol, 29 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 2-picoline borane | 0.47 mmol, 50 mg | B.N1=C(C=CC=C1)C
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | 4-{[4-(2,4-Dioxo-7-{[2-(trimethylsilyl)ethoxy]methyl}-2,3,4,7-tetrahydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-1-yl)piperidin-1-yl]methyl}benzonitrile | 23.4 mg, yield 40% | O=C1NC(C2=C(N1C1CCN(CC1)CC1=CC=C(C#N)C=C1)C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O | C28H34N6O3Si
